US06166006
Under argon atmosphere, a solution of methyl (E)-3-(4-bromothiophen-2-yl)acrylic acid (3.0 g), 4-methylphenyl borate (1.82 g) and potassium carbonate (3.36 g) in toluene-ethanol-water (120-12-12 ml) was stirred at room temperature for 1 hour. To the reaction mixture was added tetrakistriphenylphosphinepalladium (0.42 g), and the mixture was refluxed for 24 hours and cooled to room temperature. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:9→1:5→1:2) to give methyl (E)-3-[4-(4-methylphenyl)thiophen-2-yl)acrylate (2.40 g) as pale yellow crystals.

reactant | methyl (E)-3-(4-bromothiophen-2-yl)acrylic acid | 3.0 g | C/C(/C(=O)O)=C\C=1SC=C(C1)Br | C8H7BrO2S
reactant | 4-methylphenyl borate | 1.82 g | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | potassium carbonate | 3.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenylphosphinepalladium | 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (E)-3-[4-(4-methylphenyl)thiophen-2-yl)acrylate | 2.40 g | CC1=CC=C(C=C1)C=1C=C(SC1)/C=C/C(=O)OC | C15H14O2S
